US06573289B1
Production of 1-(6-Hydroxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
To a solution of 1-(6-tert-butyldimethylsilyloxynaphthalen-2-yl -1-(1H-imidazol-4-yl)-2-methylpropanol (1.60 g) in THF (10 mL) was added 70% aqueous solution of hydrogen fluoride-pyridine (3 ml) under ice cooling. The mixture was stirred for 30 min under ice cooling and for 2 h at room temperature. The mixture was neutralized with saturated solution of sodium hydrogencarbonate, extracted with dichloromethane and dried. The solvent was distilled off and the residue was purified by column chromatography (eluent, dichloromethane:methanol=10:1→5:1) to give the titled compound (856 mg) as a colorless powder.

reactant | 6-tert-butyldimethylsilyloxynaphthalen-2-yl -1-(1H-imidazol-4-yl)-2-methylpropanol | 1.60 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C23H32N2O2Si
reactant | hydrogen fluoride-pyridine | 3 ml | N1=CC=CC=C1.F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(6-Hydroxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 856 mg | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C17H18N2O2
